Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm scared I have early-onset schizophrenia."
.
 
Major Surgical or Invasive Procedure:
None
.

 
History of Present Illness:
___ is a ___ yo F freshman ___ major at ___ 
___, ___ of depression and anxiety, no past 
psychiatric hospitalizations, who presented to the ___ ED with 
her boyfriend with concerns that she has early-onset 
schizophrenia and was found to exhibit signs in the ED that were 
concerning for catatonia.
.
Per Dr. ___ ___ ED Initial Psychiatry Consult 
note: "Patient is an ___ with past history of depression and 
anxiety on Wellbutrin who was brought in by her boyfriend with 
the help of campus police for odd behavior concerning for 
psychosis.
.
Referral per ___ of NEU: Pt advised by school health 
at ___ for c/o tingling in hands & feet as 
well as memory lapse. Pt was seen yester for mental health 
issues and did not mention any of these symptoms but stated that 
the memory issues have been for "a few days." Pt unclear on when 
tingling began. Pt is anxious and does not want to wait until 
tomorrow to be seen by her therapist to r/o anxiety as she 
thinks it's something more acute. h/o anxiety however is not at 
risk for harm to self. 
.
The patient on initial interview appears subdued, blunted in 
affect, staring, attending poorly to line of questioning; she 
occasionally demonstrates echolalia, echopraxia, and automatic 
obedience.  The patient does not appear to understand why she 
has been brought to the hospital and largely answers only yes/no 
questions.  She endorses several months of worsening mood, sleep 
(1 hour nightly), appetite (15 lbs lost over last several 
months), fatigue, impaired concentration, and lack of 
motivation; she smiles when stating that she enjoys opera, which 
she is studying as a freshman at ___, as well as 
spending time with her boyfriend, ___.  She says that she sees 
a psychiatrist Dr. ___ at ___ ___ ___ 
and twice looks at this writer, saying "Hello, Dr. ___.  She 
complains of ___ telling her to kill herself and overdose on her 
medications, and admits to having consumed 15 tabs of Wellbutrin 
the other day; she does not know whether she has otherwise been 
compliant with her antidepressant.  She admits to feeling 
paranoid, to feeling as though others can read her thoughts, and 
to being able to read others' thoughts, but denies that she 
knows what this writer is thinking.  She endorses ideas of 
reference but cannot provide examples.  Given overall concern 
for catatonia the patient was given Ativan 1 mg IV once with 
improvement in her symptoms.
.
The patient was evaluated approximately 30 minutes after 
receiving Ativan and presented as spontaneous, fluent, readily 
engaged, and well-related.  She stated that she had never 
experienced a sensation like that before "like [she] was out of 
touch with reality".  She states that in the past week she has 
felt less and less like herself, struggling with concentration 
and memory, finding it difficult to describe her symptoms.  She 
states that she realized something was wrong when she noticed 
that images on laptop and cellphone screens had begun to appear 
"weird- like not the way they really were" and when she 
yesterday found herself having difficulty reading and mistaking 
colors for one another.  She states that she has never before 
seen Dr. ___ established the diagnostic appointment with 
her due to her concern for schizophrenia.  
.
The patient shares that in late ___, prior to returning to 
campus, she attended a party with her sister and their friends 
and drank both alcohol and used marijuana.  Separate from her 
friends, she recalls experiencing her friends' voices as though 
they were in the room with her saying negative things about her, 
and while disturbed, attributed this to the effects of drugs and 
alcohol.  Though she and her boyfriend smoked daily in her first 
semester she had never before experienced AVH and noticed that 
she would now encounter voices whenever she got high: she says 
that occasionally she will recognize the voices as her own 
negative self-talk but will other times experience unknown 
voices which say mean things about her, like "he (___) doesn't 
love you".  She made efforts to cut back on her drinking (no 
alcohol in over a month) and marijuana consumption ___ days 
weekly) but has noticed that she has begun to experience AH and 
feelings of paranoia even when sober.  With regard to paranoia, 
she states "sometimes I feel like the people I pass made a pact 
about me", but cannot elaborate.  Her concerns for these 
symptoms and her mental health prompted her to seek outpatient 
psychiatric care. She notes that she was referred to Dr. ___ 
by counselors at her school as she specializes in trauma work, 
the patient endorsing a history of molestation in ___ high 
and occasional physical abuse at the hands of both her mother 
and father.  She describes how she and her twin would hide their 
father's car keys, discard his vodka, and sit in the passenger 
seat of his car in order to prevent him from drinking and 
driving when he struggled with alcohol.  His difficulty with 
sobriety has influenced her desire to abstain.  
.
With regard to our earlier interview the patient states that she 
felt as though she was attempting to tell this writer what she 
wanted to hear in order to "get out of here as soon as 
possible", ironically providing answers that would otherwise 
have given cause for concern.  She appears surprised when asked 
about her alleged overdose on Wellbutrin saying "No! No, I never 
took more than prescribed- I don't think I understood when you 
asked me that question," stating that, if anything, she 
struggles to maintain compliance.  She denies SI though admits 
that she occasionally experiences fleeting thoughts of "what 
if", for example "What if I walked in front of that car right 
now?" denying plan or intent.  She describes a history of 
depression and active SI in middle school but denies SIB or SA. 
She confirms that she currently struggles with motivation and 
concentration, insomnia and fatigue, but feels her mood has 
overall been "OK to lower end of the spectrum", believing her 
depression fairly well-controlled.  She denies past or present 
symptoms of mania.  
.
Collateral per boyfriend, ___ (___) present at the 
bedside:
Not quite herself since ___, had a concert, didn't believe 
she did as well as she could have, growing progressively 
"foggier" since then- having difficulty with her memory, asking 
him for details of her schedule.  Said last night she slept over 
but left his room without waking him, returning to her dorm 
without her keys, locked out of the apartment for who knows how 
long.  Patient didn't seem to be doing well at work ___ told 
her to tell her manager that she needed to go home.  He called 
the on-call counselor to ask their advice and they recommended 
evaluation at the hospital. Patient on the way to the hospital 
was acting oddly reassuring herself by saying things like "I am 
___, my parents are ___, etc.
.
Collateral per mom, ___ (___) and dad, ___ 
(___): On ___ ago she returned to ___ after 
___ break and seemed initially to be struggling with 
anxiety, complaining her depression was worse, and eventually 
admitted that she hadn't been taking her medications 
consistently, though she has seemed to be doing better with this 
these last few days.  Earlier this week she told her sister she 
was having difficulty with her memory, and didn't seem quite her 
normal self when she talked with her mother on ___- she 
seemed a little down and anxious, worried about a concert she 
was preparing for, and seemed even worse on ___ morning, 
concerned that she'd performed poorly the night before.  Her 
mother notes that she sounded detached, replying with 
monosyllabic answers, and while they felt reassured when she 
texted yesterday to say she was OK and going to work, they 
received a follow-up text later in the afternoon informing them 
she was feeling worse and going to the hospital for evaluation."
.
In the ED, the patient received IVF and lorazepam 1mg IV. She 
was otherwise in good behavioral control and did not require 
physical or chemical restraints.
.
On interview today on ___, patient states that she is 
hear because of "being forgetful, just spacey overall". States 
that in the past 5 days, she has been having difficulty 
"confirming reality", and that she has been experiencing 
dissociations which have been very distressing to her. Gives 
examples of feeling like people's names on cups were not real 
when she was working at ___, that her boyfriend's computer 
screen was shifting/ scrolling on its own, that she felt like (2 
nights ago) everyone at school thought she was a school-shooter 
and that there were trucks pulling up outside her dorm and 
people were evacuating (states she went outside in the snow to a 
Lyft, got inside because she thought it was to take her into 
custody, and then got out once she chatted with the driver and 
realized these were delusions). These experiences have been 
"disorienting" and frightening to her. Also clarifies that 
although she endorsed in the ED that she had OD'ed on 
Wellbutrin, but that this is not true and she was scared in the 
ED so she had just told them things to be discharged. 
.
Also shares that she is concerned she has early-onset 
schizophrenia. Shares that she has read about psychedelic 
substances triggering early-onset schizophrenia, and that she 
first took such substances ___ year ago (shrooms) without issues. 
But since moving to ___ for school, she has began smoking 
marijuana at increasing amounts, and that she first realized she 
was having strange symptoms when she mixed 3 shots of vodka with 
taking large dabs of marijuana at a party this ___. She 
was in the bathroom alone, but feeling like she was hearing 
voices of her friends talking about her. Since being back this 
semester, she has experienced thoughts such as feeling that 
people are conspiring against her, as well as feeling like some 
things are not real/making her question her reality (as well as 
the school-shooter delusion mentioned above). States that while 
she has been in the hospital, she has also felt like she hears 
voices from people around her, that "I think they say something, 
but then it doesn't make sense". Also shares that when people 
were taking her food orders, she felt like they could read her 
mind. However, with all of these delusions, she states "I later 
think about it, and I realize they're delusions" becoming 
tearful.
.
Reports current mood as "anxious and sad", stating she is 
concerned that she will end up like the other psychotic patients 
she boarded next to in the ED. States she would like help with 
calming herself down, practicing mindfulness/meditation.
.
Currently denies SI/HI/AVH.
.
On depression ROS, endorses depressed mood for 3 days, sleep 
disturbance for 3 weeks (hears voices when trying to fall 
asleep, as well as hearing conversations from the day, and 
hearing music), has been getting 4 hours of sleep on average or 
less. Reports fluctuating energy levels in the past 3 weeks, as 
well as poor concentration, and endorses hopelessness that she 
will end up with schizophrenia like the older patients she has 
seen in the
ED and on Deac4.
.
REVIEW OF SYSTEMS:
-Depression: As per HPI
-Psychosis: As per HPI
-Mania: Denies the following: Elevated/irritable mood, Increased 
activity/energy, Decreased need for sleep, Grandiosity, 
Increased speech, Racing thoughts, Distractibility, Increase in 
goal-directed activity/psychomotor agitation, Social/economic 
indiscretion
-Anxiety/panic: Reports having a panic attack on the way up to 
Deac4, experiencing SOB, diaphoresis, chest pain, nausea, and 
palpitations. Denies the following: Phobias, Rumination, 
Obsessions, or Compulsions
-PTSD: Endorses trauma history of sexual assault and physical 
abuse from parents while growing up. Endorses flashbacks and 
nightmares to sexual assault she experienced between the ages of 
___ to ___ (was ongoing).
-General/Medical: Positive for: Mild SOB. Otherwise, a 10-point 
ROS was negative, including no: Fever, HA, Eye pain, Hearing 
deficit, Chest pain, Abdominal pain, Constipation, Diarrhea, or 
Musculoskeletal pain
.
 
Past Medical History:
-PCP: ___ of head trauma: Denies
-Hx of seizure: Denies
-PMHx: Acne (on spironolactone and minocycline, not filled since 
___
-Allergies: NKDA
.
 
Social History:
___
Family History:
-Fam Dx: Mother has depression and anxiety, father has 
depression and alcohol use disorder; also, mother is adopted and 
unaware of her own family history
-Fam Hospitalizations: Father has gone to detox for alcohol
-Fam Hx Suicide: Unsure
.
 
Physical Exam:
EXAM:
Vital Signs: 
  ___ at 13:42: T 98.2, BP 141/94, HR 144, RR 22, SpO2 
100%RA
Subsequent serial VS: 
  14:01 138/78 (lying), HR 138; 131/78 (sitting/standing) HR 135 
(orthostatic negative) 
  16:04 130/85, HR 88, RR 16, SpO2 99%RA
.
GENERAL
-HEENT: Normocephalic, atraumatic, Moist mucous membranes, 
oropharynx clear, supple neck, No scleral icterus
-Cardiovascular: Tachycardic, normal rhythm, S1/S2 heard, no 
murmurs/ rubs/ gallops           
-Distal pulses ___ throughout
-Pulmonary: No increased work of breathing, Lungs clear to 
auscultation bilaterally, No wheezes/rhonchi/rales
-Abdominal: Non-distended, bowel sounds normoactive, No 
tenderness to palpation in all quadrants, No guarding, no 
rebound tenderness
-Extremities: Warm and well-perfused, No edema of the limbs
-Skin: Mild generalized flushing of face/arms
.
NEUROLOGICAL
-Cranial Nerves:
   -I: Olfaction not tested
   -II: PERRL 3 to 2 mm, both directly and consentually; brisk 
bilaterally, VFF to confrontation
   -III, IV, VI: EOMI without nystagmus
   -V: Facial sensation intact to light touch in all 
distributions
   -VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally
   -VIII: Hearing intact to finger rub bilaterally
   -IX, X: Palate elevates symmetrically
   -XI: ___ strength in trapezii and SCM bilaterally
   -XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally, No abnormal movements, 
no tremor, Strength ___ throughout
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
-Coordination: Normal on finger to nose test, no intention 
tremor noted
-Gait: Good initiation, Narrow-based, normal stride and arm 
swing, Able to walk in tandem without difficulty, Romberg absent
.
COGNITION 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors, EARTH backwards with no errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ spontaneous recall after 5 ___, 
___ grossly intact
-Fund of knowledge: Consistent with education, Intact to last 3 
presidents
-Calculations: $1.75 = 7 quarters
-Abstraction: "Don't judge a book by its cover" = "Don't be too 
judgmental before you meet someone", Orange/apple = "fruits", 
Bicycle/train = "modes of transportation"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation
.
MENTAL STATUS
-Appearance: ___ year old Caucasian woman appearing her stated 
age, fair grooming and hygiene, wearing hospital gown, fair 
complexion but appears flushed/red, appears well hydrated and 
nourished, appears anxious
-Behavior: Sitting in chair, appropriate eye contact, no 
psychomotor agitation or retardation
-Attitude: Cooperative, engaged, friendly
-Mood: "Anxious and sad"
-Affect: Mood-congruent although overall still euthymic, is 
appropriately reactive/labile throughout interview (goes from 
smiling to becoming tearful and crying when talking about 
certain delusions/symptoms), full range
-Speech: Normal rate, volume, and prosody
-Thought process: Linear, coherent, goal-oriented, no loose 
associations
-Thought Content:
    -Safety: Denies SI/HI   
    -Delusions: No evidence of paranoia, etc. 
    -Obsessions/Compulsions: No evidence based on current 
encounter
    -Hallucinations: Denies AVH, not appearing to be attending 
to internal stimuli
-Insight: Limited
-Judgment: Fair
.
 
Pertinent Results:
CBC/diff:
___ BLOOD WBC-8.9 RBC-4.62 Hgb-14.5 Hct-41.9 MCV-91 
MCH-31.4 MCHC-34.6 RDW-11.9 RDWSD-39.6 Plt ___
___ 08:36PM BLOOD Neuts-70.5 ___ Monos-8.2 Eos-0.5* 
Baso-0.3 Im ___ AbsNeut-6.26* AbsLymp-1.79 AbsMono-0.73 
AbsEos-0.04 AbsBaso-0.03
.
Electrolytes:
___ BLOOD Glucose-113* UreaN-6 Creat-0.8 Na-133* K-3.7 
Cl-101 HCO3-22 AnGap-10 Calcium-10.3 Phos-2.2* Mg-2.3*
___ 03:43PM BLOOD Na-139 K-4.3
.
Nutrition:
___ 08:36PM BLOOD VitB12-528 Folate-15
___ 08:36PM BLOOD 25VitD-31
.
Endocrine:
___ 08:46PM BLOOD %HbA1c-5.1 eAG-100
___:36PM BLOOD TSH-1.2
.
Lipid panel:
___ 08:36PM BLOOD Triglyc-62 HDL-94 CHOL/HD-1.7 LDLcalc-55 
Cholest-161
.
Cardiac enzymes:
___ 05:05PM BLOOD CK(CPK)-92
___ 05:05PM BLOOD CK-MB-1 cTropnT-<0.01
.
D-dimer:
___ 05:05PM BLOOD D-Dimer-236
.
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
#) Concern for early psychosis
Patient reported a history of experiencing a few incidents of 
hallucinations (seeing her boyfriend's computer screen moving), 
paranoia (believing others were talking about her), and 
temporary delusions (believing others believed she was a ___ 
___) as well as increasing nonspecific cognitive 
difficulties such as memory difficulty (going to work on the 
wrong day). These experiences had been distressing to the 
patient and she was concerned she was developing schizophrenia. 
On further history after admission, it seems most of the 
aforementioned psychotic symptoms occurred either in the setting 
of marijuana intoxication or acute anxiety and/or panic. There 
were no further episodes of overt psychotic symptoms throughout 
her hospital course, although she frequently demonstrated odd 
thought form and heightened suggestibility which were more 
apparent when she was acutely anxious (e.g. apologizing for 
having O2 sat <100%, experiencing nausea when interviewer asks 
if she is nauseous). She did not demonstrate any negative 
symptoms of schizophrenia. To further evaluate for possible 
early psychosis, she received cognitive testing and 
psychological testing. On cognitive testing with MOCA and MMSE 
her scores were within normal limits, although at times she lost 
points due to performance anxiety. On psychological testing, she 
scored abnormally in anxiety scales but not in psychosis scales. 
Overall, diagnostically the psychotic symptoms and thought 
disorder seemed most consistent with cannabis-induced psychotic 
disorder, generalized anxiety disorder (with cognitive 
distortion), and possible panic disorder. We started low dose 
risperidone 0.5mg BID for thought disorder and lability and 
increased it to 0.5mg AM, 0.5mg ___, and 1mg QHS which was 
tolerated well and seemed to improve her thinking. Due to 
patient's inconsistent medication compliance, we switched to 
paliperidone 3mg daily prior to discharge. We also focused on 
treating her anxiety as described below. At the time of 
discharge, patient demonstrated linear thought process and 
denied hallucinations, delusions, or paranoia. Outpatient 
treaters should monitor for recurrent psychotic symptoms, 
worsening cognitive difficulties, and medication side effects. 
Please reassess need for antipsychotics and consider 
discontinuation if no longer necessary.
.
#) Anxiety/panic symptoms
Patient reported escalating symptoms of anxiety and episodes of 
severe anxiety for past several weeks including feeling tense, 
intrusive thoughts, worrying, restlessness, insomnia, racing 
heart, and shortness of breath. Collateral also noted concern 
for worsening anxiety. Her anxiety was labile but occurred 
appropriate to conversation content/circumstances, and had a 
strong somatic component (patient was noted to be flushed and 
tachycardic when anxious). Interventions included switching from 
wellbutrin to SSRI for chronic anxiety treatment, paliperidone 
for short term anxiety relief (in addition to reasons described 
above), and PRN lorazepam to use as needed. Because patient was 
naïve to SSRIs and her mother had good response to citalopram, 
we started citalopram 10mg daily which she tolerated well. 
Patient's anxiety improved somewhat over the course of the 
hospitalization and on the day of discharge patient reports her 
anxiety was manageable. We increased citalopram to 20mg daily 
upon discharge, which can be further titrated by outpatient 
treaters. We discharged also on paliperidone 3mg and a short 
course of lorazepam 0.5mg daily PRN acute anxiety/panic. If 
beneficial or if patient is having recurrent episodes of panic, 
outpatient treaters could consider prescribing additional 
benzodiazepines or non-benzo anxiolytics. 
.
3. SUBSTANCE USE DISORDERS:
#) Alcohol use disorder- patient reports a history of binge 
drinking when back in ___. She would drink 5 or more vodka 
beverages approximately monthly and has blacked out on multiple 
occasions. Currently, she drinks once per week in social 
situations, typically 1 mixed drink and 2 beers. Counseled 
patient about alcohol use and she expressed interest in cutting 
down.
.
#) Cannabis use disorder- patient reports escalating marijuana 
use, currently ___ weekly via dab pen and vaporizer. She 
reports recent incidents of distressing hallucinations and 
paranoia in the setting of being both high and drunk. It is 
unclear to what extent marijuana may also be contributing to 
other psychotic, cognitive, and mood symptoms. Strongly advised 
patient to abstain from marijuana and all other substances as 
this may worsen her symptoms or precipitate psychosis especially 
if she is predisposed to primary psychotic disorder (family 
history is unknown as patient's mother was adopted). She 
expressed her intention to avoid drugs in the future.
.
4. MEDICAL
#) Tachycardia, chest pain
At the time of admission patient developed acute anxiety, vague 
chest pain and shortness of breath, and tachycardia of 130s to 
144, with normal O2 sat. Initial ECG showed sinus tachycardia 
with changes concerning for myocardial ischemia. HR subsequently 
returned to ___ anxiety improved. Cardiac enzymes, 
D-dimer, TSH, and electrolytes were obtained which were normal 
except for sodium of 133, which was normal on recheck. 
Subsequent ECGs continued to show NSR with a question of peaked 
T waves. Medical consult was obtained which did not recommend 
further workup or management and did not think T waves were 
truly peaked. Over the hospital course, patient's HR generally 
remained in ___ although she continued to have intermittent 
tachycardia to 120s-130s when anxious. We anticipate that her 
tachycardia will improve with treatment of her anxiety and 
panic. If she has further episodes of chest pain we encouraged 
her to seek medical care immediately.
.
#) Influenza exposure
Patient shared a room with another patient who was diagnosed 
with influenza A on ___. Patient was asymptomatic and tested 
negative by nasopharyngeal swab influenza A/B PCR. We offered 
prophylactic Tamiflu which patient took for 5 days. At the time 
of discharge, patient continued to deny flu-like symptoms and 
Tamiflu was discontinued. 
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient frequently attended these groups that focused on 
teaching patients various coping skills. Patient was frequently 
noted to be anxious but was pleasant, engaged, cooperative, and 
made relevant contributions. Patient was often visible in milieu 
socializing appropriately with similarly aged peers, and she 
again was intermittently noted to be anxious.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
-Patient's mother ___ (___) was contacted at 
several points during patient's admission for collateral and 
treatment planning. 
-Gathered collateral from patient's boyfriend ___ 
(___).
.
#) ___
- Medications: discontinued home bupropion, started 
paliperidone, started citalopram, started lorazepam PRN anxiety
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: arranged followup with outpatient 
providers, arranged ___ appointment with school
- Behavioral Interventions: encouraged DBT skills, coping skills
- Guardianships: n/a
.
INFORMED CONSENT: Paliperidone, Citalopram
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of starting this medication, 
and risks and benefits of possible alternatives, including not 
taking the medication, with this patient. We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team. The patient appeared able to understand 
and consented to begin the medication.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based on history concerning 
for psychotic symptoms and disorganized and unpredictable 
behavior such as running out into the snow locking herself out. 
Their static risk factors noted at that time included history of 
abuse, history of substance abuse, Caucasian ethnicity, and age. 
The modifiable risk factors included psychosis, disorganized and 
unpredictable behavior, hopelessness, no established outpatient 
treatment, insomnia, active substance abuse/intoxication, and 
impulsivity. These were addressed through individual and group 
therapy and psychopharmacologic management, with subsequent 
improvement in all modifiable risk factors. Finally, the patient 
is being discharged with many protective risk factors, including 
help-seeking nature, future-oriented viewpoint, good social 
support, sense of responsibility to family, no 
irritability/agitation, reality testing ability, good coping 
skills, good problem-solving skills, and lack of suicidal 
ideation. Patient demonstrated preserved capacity to engage in a 
meaningful discussion about safety planning about what she would 
do in the event of worsening psychiatric symptoms (e.g. would 
call therapist, call ___, or self-present to the ED). Overall, 
based on the totality of our assessment at this time, the 
patient is not at an acutely elevated risk of self-harm nor 
danger to others. 
. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 300 mg PO DAILY 
2. Sprintec (28) (norgestimate-ethinyl estradiol) 0.25-35 mg-mcg 
oral DAILY 
3. Spironolactone 100 mg PO DAILY 
4. Minocycline 100 mg PO DAILY 
.
 
Discharge Medications:
1.  Citalopram 20 mg PO DAILY 
RX *citalopram 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  LORazepam 0.5 mg PO DAILY:PRN insomnia, anxiety, agitation 
RX *lorazepam 0.5 mg 1 tablet by mouth daily Disp #*15 Tablet 
Refills:*0 
3.  PALIperidone ER 3 mg PO QHS 
RX *paliperidone 3 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
4.  Sprintec (28) (norgestimate-ethinyl estradiol) 0.25-35 
mg-mcg oral DAILY  
.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Generalized anxiety disorder
consider Panic disorder
Substance-induced psychosis
Alcohol use disorder
Cannabis use disorder
.
 
Discharge Condition:
Neurological:
- Station and gait: ambulates on own, WNL
- Tone and strength: grossly WNL 
- Cranial nerves: grossly WNL 
- Abnormal movements: no tremors/tics
.
Mental Status
- Appearance: appearing stated age, young, ___
blonde-haired woman wearing ___ tank top, sweater over, pajama
pants, carrying notebooks
- Behavior: calm, appropriate, easy-going
- Mood and Affect: 'ready to go home'/euthymic
- Thought process: linear, no LOA
- Thought Content: no SI/HI/AH/VH
- Judgment and Insight: improving/improving
.
Cognition:
- Alertness/Wakefulness: alert, awake
- Attention: attends to interviewers
- Orientation: person, place, time, situation
- Memory: intact to recent/remote events 
- Fund of knowledge: average 
- Abstraction: intact 
- Speech: normal rate, rhythm, prosody, volume
- Language: fluent ___ with no paraphasic errors 
.
 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___